US08314097B2
To a suspension of 2-(1-trityl-1H-imidazol-4-yl)ethanol (0.65 g, 1.80 mmol), acetonitrile (9 mL) and CH2Cl2 (12 mL) is added a solution of 2-bromomethyl-4′-fluorobiphenyl (0.478 g, 1.80 mmol) in CH2Cl2 (2 mL). The resulting mixture is stirred at room temperature overnight. The solution is concentrated and the residue is taken up in MeOH and heated to 75° C. for 3.5 h. The solution is then concentrated and the residue is partitioned between CH2Cl2 and aqueous 5% NaHCO3. The aqueous layer is then extracted with CH2Cl2 (3×). The combined organic layers are then washed with brine and dried over Na2SO4. The residue is then purified by flash chromatography (CH2Cl2/MeOH) give 2-[3-(4′-fluorobiphenyl-2-ylmethyl)-3H-imidazol-4-yl]ethanol. MS (ESI) m/z 297.1 (M+H).

reactant | 2-(1-trityl-1H-imidazol-4-yl)ethanol | 1.80 mmol, 0.65 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCO | C24H22N2O
reactant | acetonitrile | 9 mL | C(C)#N | C2H3N
reactant | 2-bromomethyl-4′-fluorobiphenyl | 1.80 mmol, 0.478 g | BrCC1=C(C=CC=C1)C1=CC=C(C=C1)F | C13H10BrF
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(4′-fluorobiphenyl-2-ylmethyl)-3H-imidazol-4-yl]ethanol | FC1=CC=C(C=C1)C1=C(C=CC=C1)CN1C=NC=C1CCO | C18H17FN2O
